US04978386
(α-Ethoxycarbonylbenzyl)Acetonitrile
In this example 10 g of ethyl phenylacetate in 10 ml of THF was added dropwise to 61 ml of a 1 molar solution lithium bis[trimethylsilvllamide in tetrahydrofuran, under nitrogen, at -78° C. The mixture was stirred for one hour at -78° C. A solution containing 10.2 g of iodoacetonitrile in 10 ml of tetrahydrofuran was added dropwise. The reaction mixture was stirred at -78° C. for about one-half hour and then stirred for two hours and allowed to warm toward room temperature during this period. The reaction mixture was then added to water and the pH adjusted to pH 1 by the addition of aqueous 10% hydrochloric acid. The mixture was washed with saturated aqueous sodium chloride solution and extracted three times with ethyl ether. The extracts were combined, washed twice with aqueous saturated sodium bicarbonate, dried over magnesium sulfate and evaporated affording 10.7 g of the title compound is an oil. The oil was further purified by chromatography over silica gel eluting with 20% vol. ethyl acetate petroleum ether.

reactant | ethyl phenylacetate | 10 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | lithium | [Li] | Li
reactant | iodoacetonitrile | 10.2 g | ICC#N | C2H2IN
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (α-Ethoxycarbonylbenzyl)Acetonitrile | 10.7 g | C(C)OC(=O)C(C1=CC=CC=C1)CC#N | C12H13NO2
